* A user-defined function whose body is a bare formal parameter, at arity
* two or more, is handed a node its caller is about to free.
* doc/codex/issues/0054.
*
* trcopy()'s formal branch returns ntharg(i, args), a node of the CALLER's
* argument list.  At arity >= 2 that list is a comma tree, so the node
* returned is one whose only pn_use is held by the comma node -- and
* PP_mkfnode() then frees exactly that comma node.  free_pnode() reaches
* the child at the floor of its count and frees both the node and its
* vector underneath the evaluator that is about to read them.
*
* What this deck can assert is NOT the diagnostic.  The two lines the fault
* prints,
*     checkvalid: Internal Error: bad node
*     ft_evaluate: Internal Error: bad node
* go to stderr, which tests/bin/check.sh does not capture, and its filter
* drops every line matching "Error" in any case.  The assertion rests on
* what is MISSING from stdout instead: ft_evaluate() fails, so `print`
* emits no `d(2,3) = ...` line at all.  At 6ac4dc733 the first call prints
* nothing and exits 0 -- a deck that called once and checked only the
* status would pass vacuously -- and the second call aborts inside glibc at
* status 134, taking the rest of the run, `SURVIVED` included, with it.
*
* Six shapes.  The first three were broken.  The last three were always
* correct and are here so that a repair cannot buy the first three back:
* k's body puts an operator over the formal, so trcopy()'s parent takes the
* reference the comma node's free then releases; p's arity is 1, where
* there is no comma node to free; and sq substitutes the same argument node
* twice, which is the count a repair is most likely to disturb.
v1 1 0 dc 1
r1 1 0 1k
.control
op
* a bare formal at the root, arity 2
define d(x,y) x
print d(2,3)
print d(2,3)
print d(2,3)
* the same at arity 3, and not the first formal
define t(x,y,z) y
print t(2,3,4)
print t(2,3,4)
* the argument is an expression rather than a leaf
print d(2+1,3)
print d(2+1,3)
* an operator over the formal -- always worked, must stay working
define k(x,y) x+0
print k(2,3)
print k(2,3)
* arity 1 -- always worked, must stay working
define p(x) x
print p(2)
print p(2)
print p(2)
* the same argument substituted twice -- always worked, must stay working
define sq(x) x*x
print sq(3)
print sq(3)
print sq(3)
* An argument that resolves to a LIST of vectors.  A name like `all` is one
* dvec per vector, chained through v_link2 by PP_mksnode(), and a bare
* formal body hands that whole chain straight back.  The repair above must
* copy the chain and not just its head: this is the one shape where the
* copy can be lossy where returning the node was not, and unlike the rest
* of this deck it was correct at 6ac4dc733 and became wrong when the
* argument started being copied.  Both arities, because the arity 1 case is
* a plain regression while at arity 2 the alternative was the abort.
define id(x) x
print id(all)
define pick(u,v) u
print pick(all,1)
echo SURVIVED
.endc
.end
